### PR TITLE
example

### PR DESCRIPTION
**Pull request by Thmoas-Guan**

### CODE REVIEW

File: EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean [hunk 1]
```diff
@@ -0,0 +1,38 @@
...
+Prove that $PBQD$ is a parallelogram.
+-/
+
+-- Let $ABCD$ be a parallelogram.
+variable {A B C D : Plane} {hprg : Quadrilateral.IsParallelogram (QDR A B C D)}
+-- The diagonals $AC$ and $BD$ meet at $M$.
+variable {M : Plane} {hm : M = Quadrilateral_cvx.diag_inx (QDR_cvx A B C D (is_convex_of_is_prg hprg))}
+-- Let $P$ and $Q$ be points on $AM$ and $MC$, respectively, such that $MP = MQ$.
+variable {P Q : Plane} {hp : Seg.IsInt P (SEG A M)} {hq : Seg.IsInt Q (SEG M C)} {hpq : (SEG P M).length = (SEG M Q).length}
+-- State the main goal.
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean:22]: Please write out the main goal explicitly.

File: EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean [hunk 2]
```diff
@@ -0,0 +1,38 @@
...
+theorem SCHAUM_Problem_1_13 : Quadrilateral.IsParallelogram (QDR P B Q D) := by
+  have m1 : M = (SEG B D).midpoint := by
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean:24]: such a lemma should be equipped with comments.
`-- Point $M$ is the midpoint of the segment $BD$.`

File: EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean [hunk 3]
```diff
@@ -0,0 +1,38 @@
...
+    · sorry
+    · exact hprg
+  have m2 : M = (SEG P Q).midpoint := by
+    apply (eq_midpoint_iff_in_seg_and_dist_target_eq_dist_source M (SEG P Q)).mpr
+    constructor
+    · sorry
+    · simp
+      exact hpq
+  apply is_prg_of_diag_inx_eq_mid_eq_mid
+  rw [← m1, ← m2]
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Probelm1.13.lean:36]: Line 35 36 should have a comment.

File: EuclideanGeometry/Example/SCHAUM/Problem1.1.lean [hunk 4]
```diff
@@ -0,0 +1,79 @@
...
+variable {D : P} {D_on_seg: D LiesInt (SEG A B)}
+--Let $E$ be a point on $AC$
+variable {E : P} {E_on_seg: E LiesInt (SEG A C)}
+--such that $AE = AD$.
+variable {E_ray_position : (SEG A E).length = (SEG A D).length}
+--Let $M$ be the midpoint of $BC$.
+variable {M : P} {median_M_position : M = (SEG B C).midpoint}
+--Prove that $DM = EM$.
+theorem Problem_1_1 : (SEG D M).length = (SEG E M).length := by
+  have h₀ : (SEG A B).length = (SEG A C).length := by
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Problem1.1.lean:27]: Although this looks very clear, it still needs a comment.
`-- We show that the length of segment $AB$ equals to length of $AC$ `

File: EuclideanGeometry/Example/SCHAUM/Problem1.1.lean [hunk 5]
```diff
@@ -0,0 +1,79 @@
...
+  have h₂ : ¬ colinear C E M := by sorry
+  --to confirm the definition of angle is not invalid
+  have d_ne_b : D ≠ B := (ne_of_not_colinear h₁).2.2
+  have m_ne_b : M ≠ B := (ne_of_not_colinear h₁).2.1.symm
+  have e_ne_c : E ≠ C := (ne_of_not_colinear h₂).2.2
+  have m_ne_c : M ≠ C := (ne_of_not_colinear h₂).2.1.symm
+  have a_ne_b : A ≠ B := (ne_of_not_colinear hnd).2.2.symm
+  have c_ne_b : C ≠ B := (ne_of_not_colinear hnd).1
+  have a_ne_c : A ≠ C := (ne_of_not_colinear hnd).2.1
+  have b_ne_c : B ≠ C := (ne_of_not_colinear hnd).1.symm
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Problem1.1.lean:41]: From Line 31 to Line 41, add a single comment to explain what each line do
`-- Point $A$ is not equals to point $B$.`

File: EuclideanGeometry/Example/SCHAUM/Problem1.1.lean [hunk 6]
```diff
@@ -0,0 +1,79 @@
...
+  --the second edge of congruence
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Problem1.1.lean:42]: the comment should be written as the style of proving in human-readable language, not comment of code.
`-- the length of $BD$ equals to length of $CE$.`

File: EuclideanGeometry/Example/SCHAUM/Problem1.1.lean [hunk 7]
```diff
@@ -0,0 +1,79 @@
...
+      sorry
+    rw [h₅₁]
+    have h₅₂ : ∠ D B M (d_ne_b) (m_ne_b) = -∠ C B A (c_ne_b) (a_ne_b) := by
+      sorry
+    rw [h₅₂]
+    have h₅₃ : ∠ C B A (c_ne_b) (a_ne_b) = ∠ A C B (a_ne_c) (b_ne_c) := by
+      apply (is_isoceles_tri_iff_ang_eq_ang_of_nd_tri (tri_nd := ⟨▵ A B C, hnd⟩)).mp
+      exact hisoc
+    rw [h₅₃]
+  have h₆ :  TRI_nd B D M h₁ ≅ₐ TRI_nd C E M h₂ := by
```
Comment (jjdishere) [inline EuclideanGeometry/Example/SCHAUM/Problem1.1.lean:72]: comment here what congruence criterion and what condition you use to show the congruence.

**Review by jjdishere — CHANGES_REQUESTED** [review]
Still it need to add/improve lots of comments. I'll show an example in Friday's afternoon.
